US07135502B1
N-[3-((N-benzyloxycarbonylalanyl)amino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide
A solution of N-benzyloxycarbonyl-(L)-alanine (63 mg, 0.28 mmol) in dichloromethane (4 ml) at −20° C. was treated with N-[3-amino-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide (100 mg, 0.28 mmol), (V. Fernholz Justus Liebigs Ann., 1950, 568, 63–72), and 1,3-dicylcohexylcarbodiimide (134 mg, 0.31 mmol) and the solution stirred for 16 hours at ambient temperature. Solvent was evaporated under reduced pressure and the residue chromatographed on silica gel, eluting with ethyl acetate to give a white solid which was triturated with diethyl ether. The title compound (85 mg) was obtained as a white solid.

reactant | N-benzyloxycarbonyl-(L)-alanine | 0.28 mmol, 63 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | N-[3-amino-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | 0.28 mmol, 100 mg | NC=1C=CC2=C(C(CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C20H24N2O4
reactant | 1,3-dicylcohexylcarbodiimide | 0.31 mmol, 134 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[3-((N-benzyloxycarbonylalanyl)amino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | 85 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NC=1C=CC2=C(C(CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C31H35N3O7
